US07601716B2
3,6-Difluoro-2-[7-(6-morpholin-4-yl-pyridin-3-yl)-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-ylmethyl]benzonitrile
1-(2-Chloro-3,6-difluorobenzyl)-7-(6-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (300 mg) was dissolved in anhydrous DMF. CuCN (5.0 eq) was added and the resulting mixture was heated to 150° C. in a microwave for 30 minutes. The reaction mixture was concentrated, taken up in CH2Cl2, washed three (3) times with an aqueous solution of NH4OH (10%), and the organic phase was dried, filtered, and concentrated. The residue was purified via silica gel chromatography (0-100% ethyl acetate in hexanes followed by 5% methanol in ethyl acetate) to give the title compound (37% yield). M.p 188-190° C., LCMS: m/z=449.05 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.24-3.31 (m, 2H), 3.48-3.56 (m, 6H), 3.80-3.88 (m, 4H), 4.51 (s, 2H), 4.86 (bs, 1H), 6.65-6.73 (m, 1H), 6.98-7.06 (m, 2H), 7.09-7.19 (m, 2H), 7.59-7.64 (m, 2H), 8.36 (s, 1H).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-(6-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 300 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCOCC3)C(=CC=C1F)F | C23H22ClF2N5O
reactant | CuCN | 5.0 eq | C(#N)[Cu]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,6-Difluoro-2-[7-(6-morpholin-4-yl-pyridin-3-yl)-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-ylmethyl]benzonitrile | 37% yield | FC=1C(=C(C#N)C(=CC1)F)CN1C2=C(NCC1)N=CC(=C2)C=2C=NC(=CC2)N2CCOCC2 | C24H22F2N6O
